US05942515
Preparation of ethyl 7-chloro-6-(2-chloroethyl)pyrazolo[1,5-a]pyrimidine-5-carboxylate:
To 5.36 g (21.35 mmol) of ethyl 6-(2-hydroxyethyl)-pyrazolo-[1,5-a]pyrimidin-7(4H)-one-5-carboxylate were added 7 ml (d=1.645, 75.10 mmol) of phosphorus oxychloride, and the mixture was stirred for 40 minutes in an oil bath heated to 100° C. under a nitrogen atmosphere. The reaction mixture was then cooled to about room temperature, and 7 ml (d=0.726, 50.32 mmol) of triethylamine were added to the mixture. The resultant mixture was stirred for 30 minutes in the oil bath heated to 100° C. Thereafter, the reaction mixture was cooled with ice water, and 100 ml of chloroform were added thereto. The resultant mixture was poured into 600 ml of ice water. The chloroform layer was separated, and the water layer was extracted with chloroform (100 ml×2). After all the chloroform layers were put together and dried over anhydrous magnesium sulfate, the solvent was distilled off. The residue was subjected to column chromatography on silica gel (chloroform) to obtain 3.60 g (yield: 58.5%) of the intended product.

reactant | ethyl 6-(2-hydroxyethyl)-pyrazolo-[1,5-a]pyrimidin-7(4H)-one-5-carboxylate | 21.35 mmol, 5.36 g | OCCC1=C(NC=2N(C1=O)N=CC2)C(=O)OCC | C11H13N3O4
reactant | phosphorus oxychloride | 75.10 mmol, 7 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | triethylamine | 50.32 mmol, 7 ml | C(C)N(CC)CC | C6H15N
reactant | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | ethyl 7-chloro-6-(2-chloroethyl)pyrazolo[1,5-a]pyrimidine-5-carboxylate | 3.60 g, yield: 58.5% | ClC1=C(C(=NC=2N1N=CC2)C(=O)OCC)CCCl | C11H11Cl2N3O2
